US04492692
4-(3-Aminopropyl)-2-fluoro-1-triphenylmethylimidazole was reacted in THF with 2,2,2-trifluoroethyl isothiocyanate for 2 hours. Extractive work-up and chromatography gave 2-fluoro-4-[3-(3-[2,2,2-trifluoroethyl]thioureido)propyl]-1-triphenylmethylimidazole having the following n.m.r. in CDCl3 : 1.78 (quintet, 2H); 2.43 (t, 2H); 3.5 (q, 2H); 4.25 (m, 2H); 6.24 (s, 1H); 7.0-7.35 (m, 15H).

reactant | 4-(3-Aminopropyl)-2-fluoro-1-triphenylmethylimidazole | NCCCC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C25H24FN3
reactant | 2,2,2-trifluoroethyl isothiocyanate | FC(CN=C=S)(F)F | C3H2F3NS
solvent | THF | C1CCOC1 | C4H8O
product | 2-fluoro-4-[3-(3-[2,2,2-trifluoroethyl]thioureido)propyl]-1-triphenylmethylimidazole | FC=1N(C=C(N1)CCCNC(=S)NCC(F)(F)F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26F4N4S
